US07642263B2
N-(5-Methylpyrazin-2-yl)-3-[(phenylmethyl)oxy]-5-(tetrahydro-2H-pyran-4-yloxy)benzamide
3-[(Phenylmethyl)oxy]-5-(tetrahydro-2H-pyran-4-yloxy)benzoic acid (3.14 g, 9.5 mmol), 2-amino-5 methylpyrazine (2.08 g, 19.0 mmol) and HATU (4.70 g, 12.35 mmol) were dissolved in DMF (12.5 mL) and DIPEA (3.31 mL, 19.0 mmol) added. The resultant mixture was stirred at RT for 20 hours. The mixture was quenched with water (150 mL) and extracted with ethyl acetate (2×75 mL), washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was chromatographed on silica, eluting with 0-50% ethyl acetate in isohexane, to give the desired compound as a pale yellow gum (1.70 g). m/z 420 (M+H)+

reactant | 3-[(Phenylmethyl)oxy]-5-(tetrahydro-2H-pyran-4-yloxy)benzoic acid | 9.5 mmol, 3.14 g | C1(=CC=CC=C1)COC=1C=C(C(=O)O)C=C(C1)OC1CCOCC1 | C19H20O5
reactant | 2-amino-5 methylpyrazine | 19.0 mmol, 2.08 g | NC1=NC=C(N=C1)C | C5H7N3
reactant | HATU | 12.35 mmol, 4.70 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 19.0 mmol, 3.31 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 12.5 mL | CN(C)C=O | C3H7NO
product | N-(5-Methylpyrazin-2-yl)-3-[(phenylmethyl)oxy]-5-(tetrahydro-2H-pyran-4-yloxy)benzamide | 1.70 g | CC=1N=CC(=NC1)NC(C1=CC(=CC(=C1)OC1CCOCC1)OCC1=CC=CC=C1)=O | C24H25N3O4
